US09126981B2
Synthesis of (S)-2-(2-(3-benzylureidooxy)acetamido)-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide (Compound II-11)
According to the procedure described in the synthesis method of Compound II-1, 2-(3-benzylureidooxy)acetic acid (Compound VI-6) (247 mg, 1.0 mmol) was coupled with (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide (Compound IV-2) (502 mg, 1.0 mmol) and the obtained residue was purified by silica gel column chromatography (eluent: chloroform:methanol=98:2 to 97:3) to obtain the title compound (381 mg, 52%).

reactant | 2-(3-benzylureidooxy)acetic acid | 1.0 mmol, 247 mg | C(C1=CC=CC=C1)NC(NOCC(=O)O)=O | C10H12N2O4
reactant | (S)-2-amino-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide | 1.0 mmol, 502 mg | N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C | C30H40N2O4
product | (S)-2-(2-(3-benzylureidooxy)acetamido)-3-(4-tert-butoxyphenyl)-N-(2,2-diethoxyethyl)-N-(naphthalen-1-ylmethyl)propanamide | 381 mg, 52% | C(C1=CC=CC=C1)NC(NOCC(=O)N[C@H](C(=O)N(CC1=CC=CC2=CC=CC=C12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C)=O | C40H50N4O7
